US08455475B2
(R)-3-(2,3-Dichlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylic acid (F-06)
KOH (1 mol/l aq) (2 eq.) was added to a suspension of (R)-methyl 3-(2,3-dichlorophenyl-sulfonamido)-2,3-dihydro-1H-indene-5-carboxylate (C-06) (0.85 mmol, 1 eq.) in a mixture of ethanol (4.9 ml) and water (1.1 ml). The reaction mixture was stirred at room temperature overnight. Ethanol was removed in vacuo and the aqueous residue was diluted with diethyl ether and dist. water. The phases were separated and the aqueous phase was acidified to pH 3 with 1N HCl and extracted 4× with ethyl acetate. The combined organics were dried over sodium sulfate and concentrated to obtain the desired product (F-06). Yield: 61%

reactant | KOH | 1 mol/l, 2 eq. | [OH-].[K+]
reactant | (R)-methyl 3-(2,3-dichlorophenyl-sulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | 0.85 mmol, 1 eq. | ClC1=C(C=CC=C1Cl)S(=O)(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC | C17H15Cl2NO4S
solvent | ethanol | 4.9 ml | C(C)O | C2H6O
solvent | water | 1.1 ml | O | H2O
product | (R)-3-(2,3-Dichlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylic acid | Yield: 61% | ClC1=C(C=CC=C1Cl)S(=O)(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)O | C16H13Cl2NO4S
